Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],4.580535225249999
[C:1]#[C:2][O:3][C:4]([O:5][H:6])=[C:7]([H:8])[H:9]>>[C:1]#[C:2][O:3][C:4]([O:5][H:6])=[C:7][H:8].[H:9],5.24019783731
[C:5]([H:6])([H:7])[H:11].[H:1][C:2]([H:3])=[C:4]=[C:8]([H:9])[H:10]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-1.30882751734
[C:7][C:8]([H:9])([H:10])[O:11][H:12].[H:1][O:2][C:3]([H:4])=[C:5][H:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][C:8]([H:9])([H:10])[O:11][H:12],-5.14308526383
[O:1]=[C:2]([C:3]([H:4])[O:5][C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:2](=[C:3](\[H:4])[O:5][C:6][H:7])\[C:8]([H:9])([H:10])[H:11].[O:1],5.68288320924
[H:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]=[C:12]([H:13])[H:14].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]=[C:12]([H:13])[H:14],-4.21196185292
[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11].[O:1],6.06661489025
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]#[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:3][C:7](=[C:4]([H:5])[H:6])[H:8],-1.23613988572
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],4.61128628102
[H:1][O:2]/[C:3]([O:5][C:6]([H:7])([H:8])[H:9])=[C:10](\[H:11])[C:12]([H:13])[H:14].[H:4]>>[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-3.5037454154400005
[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-3.49732285756
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.06510225885
[C:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9][O:10][H:11]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7][H:8].[C:9][O:10][H:11],3.96844209489
[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])=[O:9].[H:10]>>[C:1][O:2][C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10],-1.9942954473900003
[C:1]#[C:2].[C:3]([H:4])=[C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-6.53030592243
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[C:13]([H:14])[H:15].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],5.22467071305
[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-6.08241338845
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7],1.04524721054
[C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-6.09020462787
[H:1][C:2]#[C:8][O:7][C:6][O:5][C:3][H:4]>>[H:1][C:2]1=[C:3]([H:4])[O:5][C:6][O:7][C:8]1,-2.90544081292
[O:1]=[C:2]=[C:3][O:4][C:5][C:6]([H:7])([H:8])[H:9]>>[C:6]([H:7])([H:8])[H:9].[O:1]=[C:2]=[C:3][O:4][C:5],2.10757884274
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([O:10][H:11])[O:12][H:13]>>[C:5]([H:6])([H:7])[C:8]([H:9])([O:10][H:11])[O:12][H:13].[H:1][C:2]#[C:3][H:4],1.56676892034
[H:1][C:2]=[C:3]([H:4])[O:5][C:6](=[C:7][H:8])[O:9][H:10]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]#[C:7][H:8].[O:9][H:10],3.39554783027
[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][C:2]#[C:3][O:4][H:5]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-1.76982257993
[H:1][C:2]([H:3])[C:4]1([H:5])[C:6]=[C:7]([H:8])[C:9]([H:10])=[C:11]1>>[H:1][C:2]([H:3])[C:4]([H:5])([C:6]#[C:7][H:8])[C:11]#[C:9][H:10],-1.45643997386
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6](=[O:7])[O:8][H:9]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6][O:8][H:9].[O:7],7.68188706276
[C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3][H:4]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13],-2.96140702121
[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]=[C:8]([H:9])[H:10]>>[O:1]=[C:2]=[C:3]([H:4])[H:5].[O:6]=[C:7]=[C:8]([H:9])[H:10],-2.86714028449
[C:5](=[C:6]([H:7])[H:8])=[C:9]([H:10])[H:11].[H:1][O:2][C:3]=[O:4]>>[H:1][O:2][C:3][O:4][C:5]([C:6]([H:7])[H:8])=[C:9]([H:10])[H:11],0.79522960257
